US09255097B2
Preparation 122C: {1-[4-(4-cyano-3-fluoro-phenyl)-5-(4-methoxy-phenyl)-6-oxo-1,6-dihydro-pyrimidin-2-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester
A mixture of 3-(4-cyano-3-fluoro-phenyl)-2-(4-methoxy-phenyl)-3-oxo-propionic acid methyl ester (1.8 g, 5.5 mmol), (1-carbamimidoyl-piperidin-4-yl)-carbamic acid tert-butyl ester (2.6 g, 9.2 mmol), DIEA (2.4 g, 18.3 mmol) in toluene (50 mL) was refluxed overnight. The solvent was concentrated in vacuo. The residue was suspended in MeOH and the solids were filtered to give 100 mg (4%) of the title compound. [M+H] Calc'd for C28H30FN5O4, 520. Found, 520.

reactant | 3-(4-cyano-3-fluoro-phenyl)-2-(4-methoxy-phenyl)-3-oxo-propionic acid methyl ester | 5.5 mmol, 1.8 g | COC(C(C(=O)C1=CC(=C(C=C1)C#N)F)C1=CC=C(C=C1)OC)=O | C18H14FNO4
reactant | (1-carbamimidoyl-piperidin-4-yl)-carbamic acid tert-butyl ester | 9.2 mmol, 2.6 g | C(C)(C)(C)OC(NC1CCN(CC1)C(N)=N)=O | C11H22N4O2
reactant | DIEA | 18.3 mmol, 2.4 g | CCN(C(C)C)C(C)C | C8H19N
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | {1-[4-(4-cyano-3-fluoro-phenyl)-5-(4-methoxy-phenyl)-6-oxo-1,6-dihydro-pyrimidin-2-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester | 100 mg, 4% | C(C)(C)(C)OC(NC1CCN(CC1)C=1NC(C(=C(N1)C1=CC(=C(C=C1)C#N)F)C1=CC=C(C=C1)OC)=O)=O | C28H30FN5O4
